US06300544B1
The complete reaction mixtures contain: 3 μl of isolated, recombinant P450TYR (6 pmol, heterologously expressed in E. coli and isolated as in Halkier et al, Arch. Biochem, Biophys. 322: 369-277, 1995), 10 μl isolated and dialyzed P450OX (approximately 0.4 pmol), 5 μl of NADPH-P450 oxidoreductase (0.075 U), 1 μl of partially purified UDPG glucosyl transferase from Sorghum, 5 μl of DLPC (10 mg/ml in 50 mM Kpi (pH7), 0.25 μl of [U- 14C]-tyrosine (0.05 μl Ci/mmol, 443 mCi/mmol, Amersham), 3 μl of UDPG (33 mg/ml in 50 mM Kpi (pH7)), and 3 μl of castanospermin (2 mM in 50 mM Kpi (pH7)). The components are mixed by repeated suspension and if necessary the final volume adjusted to 30 μl by the use of 50 mM Kpi (pH7). The enzyme reaction is initated with 1 μl of NADPH (25 mg/ml). Dhurrin is also synthesized via reconstitution of P450OX with p-hydroxyphenylacetaldehyde oxime (leaving out P450TYR and tyrosine from the reaction mixtures any additonal components being unchanged.). These assays contain either 0.5 μl of [U -14C]-p-hydroxphenylacetaldehyd oxime (0.014 μci/μl, 394 mCi/mmol) or 3 μl of unlabelled p-hydroxyphenylacetaldehyde oxime (20 mM) as substrate for P450OX. In the latter case the radioactive label is 1 μl of [U - 14C]-UDPG (0.025 μCi/μl, 287 mCi/mmol, Amersham). All reaction mixtures are prepared as duplicates. After incubation for 1 h at 30° c. each set of reaction mixture is applied to TLC sheets. The first set of reaction mixtures is analyzed using the ethyl acetate/toluene solvent as in example 4.5. The second set of reaction mixtures is analyzed using a solvent system consisting of ethyl acetate/acetone/dichloromethane/methanol/water (20/15/6/5/4, v/v/v/v/v) in order to achieve seperation of the hydrophilic product dhurrin from tyrosine and from the hydrophobic intermediates. Radiolabelled substrates and products are visulized using the STORM 840-phosphorimager.

reactant | NADPH | 1 μl | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | Dhurrin | C1=CC(=CC=C1[C@@H](C#N)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O | C14H17NO7
reactant | p-hydroxyphenylacetaldehyde oxime | OC1=CC=C(C=C1)CC=NO | C8H9NO2
product | tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
